US04354973
8-Chloro-2-[3-(dimethylamino)propyl]-6-(2-fluorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine dihydrochloride
In one portion 1.5 g (4.8 mmol) of 8-chloro-6-(2-fluorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine was added to a solution of 0.6 g (5.3 mmol) of potassium t-butoxide in 25 ml of dimethylformamide which was cooled to 0°. After stirring for 15 min, 5.2 ml (10.4 mmol) of a 2 M toluene solution of dimethylaminopropyl chloride was added. The mixture was warmed to room temperature and stirred for 4 hr. The mixture was diluted with water and extracted with methylene chloride. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and concentrated at reduced pressure. Purification of the residue by column chromatography (silica gel, 25 g; eluents, 4:1 ration of methylene chloride:ether followed by 1:2:7 ratio of methanol:ether:methylene chloride) gave a colorless oil. The oil was dissolved in an excess of methanolic hydrogen chloride and the solution was concentrated at reduced pressure. Crystallization of the residue from a mixture of isopropanol and ether gave an orange solid, mp 258°-260°.

reactant | 8-chloro-6-(2-fluorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine | 4.8 mmol, 1.5 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)F)=CNC3)C=C1 | C18H12ClFN2
reactant | potassium t-butoxide | 5.3 mmol, 0.6 g | CC(C)([O-])C.[K+]
reactant | dimethylaminopropyl chloride | CN(C)CCCCl | C5H12ClN
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | toluene | 2 M | C1(=CC=CC=C1)C | C7H8
product | 8-Chloro-2-[3-(dimethylamino)propyl]-6-(2-fluorophenyl)-2H,4H-pyrrolo[3,4-d][2]benzazepine dihydrochloride | Cl.Cl.ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)F)=CN(C3)CCCN(C)C)C=C1 | InChI=1S/C23H23ClFN3.2ClH/c1-27(2)10-5-11-28-14-16-13-26-23(19-6-3-4-7-22(19)25)20-12-17(24)8-9-18(20)21(16)15-28;;/h3-4,6-9,12,14-15H,5,10-11,13H2,1-2H3;2*1H
